US04035369
To a stirred solution of 8.5 parts of 1,3-dihydro-1-(1-methylethenyl)-2H-benzimidazol-2-one in 45 Parts of N,N-dimethylformamide are added portionwise 1.7 parts of sodium hydride dispersion 78%. After stirring for 1 hour at room temperature, the whole is cooled to 0°-5° C and 8.65 parts of 1-bromo-3-chloropropane are added dropwise (slowly). Upon completion, stirring is continued for 3 hours at room temperature. The reaction mixture is poured onto crushed ice and the product is extracted with methylbenzene. The extract is washed with water, dried, filtered and evaporated. The residue is crystallized from 2-propanol, yielding 5.5 parts (44%) of 1-(3-chloropropyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one; mp. 115° C.

reactant | 1,3-dihydro-1-(1-methylethenyl)-2H-benzimidazol-2-one | CC(=C)N1C(NC2=C1C=CC=C2)=O | C10H10N2O
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(3-chloropropyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | 44% | ClCCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C13H15ClN2O
